US07119122B2
2-Fluoro-5-methoxybenzaldehyde (2.62 g, 17.0 mmol), dimethylamine (2M in methanol, 17 mL, 34 mmol) and sodium cyanoborohydride (1.1.7 g, 18.7 mmol) were stirred at ambient temperature in a solution of glacial acetic acid (2 mL) in methanol (100 mL) for 66 h. The solvent was removed in vacuo. The residue was treated with 10% sodium carbonate solution and extracted with ethyl acetate. The ethyl acetate layer was washed with water (2×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to give (2-fluoro-5-methoxybenzyl)dimethylamine (3.02 g, 97%) as a yellow oil.

reactant | 2-Fluoro-5-methoxybenzaldehyde | 17.0 mmol, 2.62 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | dimethylamine | 34 mmol, 2M, 17 mL | CNC | C2H7N
reactant | sodium cyanoborohydride | 18.7 mmol | C(#N)[BH3-].[Na+]
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
product | (2-fluoro-5-methoxybenzyl)dimethylamine | 3.02 g, 97% | FC1=C(CN(C)C)C=C(C=C1)OC | C10H14FNO
